Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]([H:3])[C:4]([H:5])([C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[C:9]([H:10])([H:11])[H:12].[H:1][C:2]([H:3])[C:4]([H:5])=[C:6]([H:7])[H:8],1.26023358945
[O:1][C@:2]([H:3])([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17]>>[C:2]([H:3])([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17].[O:1],4.08425804289
[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]=[C:11]([H:12])[H:13].[O:1]=[C:2]([H:3])[H:4]>>[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]=[C:11]([H:12])[H:13],-0.2417135450499999
[H:1][C:2]([H:3])=[C:4]=[C:5]([H:6])/[C:7]([H:8])=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]#[C:4][C:5]([H:6])/[C:7]([H:8])=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14].[H:3],3.80261740994
[H:1][C:2]=[C:3]([C:4][O:5][H:6])[C:7][O:8][H:9]>>[C:7][O:8][H:9].[H:1][C:2]#[C:3][C:4][O:5][H:6],0.716839443759
[C:1]#[C:2][O:3][C:4]([H:5])([H:6])[C:7][C:8]([H:9])([H:10])[H:11]>>[C:1]#[C:2][O:3][C:4]([H:5])[H:6].[C:7][C:8]([H:9])([H:10])[H:11],3.3839278266500004
[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])=[C:11][H:12].[H:13]>>[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])=[C:11]([H:12])[H:13],-5.07357903989
[O:1]=[C:2]1[C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10]1([H:11])[H:12]>>[C:2]1[C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10]1([H:11])[H:12].[O:1],7.80123428
[H:10].[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])[C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-4.44008909539
[H:1][C:2][O:3][C:4][C:5]([H:6])=[C:8][H:9].[H:7]>>[H:1][C:2][O:3][C:4][C:5]([H:6])([H:7])[C:8][H:9],-0.6717849155969999
[O:1][C@@:2]([H:3])([C:4]#[C:5][H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[C:4]#[C:5][H:6].[O:1]=[C:2]([H:3])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],2.0593128677
[C:2][C:4]#[C:5][C:6]([H:7])([H:8])[H:9].[H:1][C:3]>>[H:1][C:2]#[C:3][C:4]#[C:5][C:6]([H:7])([H:8])[H:9],-9.96224727556
[H:1][C:2]#[C:3][C:4](=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:5]>>[H:1][C:2]#[C:3][C@:4]([H:5])([C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-1.52244587975
[H:1].[O:2]=[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1][O:2][C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12],-0.797576434196
[H:1][C:2]#[C:3][C:4]([O:5][H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[C:3]=[C:4]([O:5][H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[H:1][C:2],8.75755244957
[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]=[C:8]([H:9])[H:10]>>[H:10].[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]#[C:8][H:9],1.99668655245
[C:7]([H:8])=[C:9]([H:10])[O:11][H:12].[H:1][C:2][O:3][C:4]([H:5])[H:6]>>[H:1][C:2][O:3][C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9](\[H:10])[O:11][H:12],-4.3968066206800005
[C:1]#[C:2].[O:3]=[C:4]([H:5])[C:6]([H:7])[H:8]>>[C:1]#[C:2][O:3][C:4]([H:5])=[C:6]([H:7])[H:8],-4.15035317542
[H:1][O:2][C:3]([H:4])[C@@:5]([H:6])([O:7][H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][H:8],1.4411303279799998
[H:15].[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([C:9]([H:10])[H:11])[C:12]([H:13])[H:14]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C@@:7]([H:8])([C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-4.603332879680001
[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])=[C:13]([H:14])[H:15]>>[C:11]([H:12])=[C:13]([H:14])[H:15].[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])[H:10],4.49681860259
[O:1]=[C:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])=[C:9]([H:10])[H:11]>>[H:8].[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])=[C:7]=[C:9]([H:10])[H:11],2.70266923467
[C:1].[C:2]([O:3][C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[H:10]>>[C:1]=[C:2]([O:3][C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[H:10],-5.39512466934
[C:1]#[C:2][O:3][C:4]([H:5])[H:6]>>[C:1]#[C:2].[O:3]=[C:4]([H:5])[H:6],2.40521311718
[C:8]([H:9])#[C:10][H:11].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7][C:8]([H:9])=[C:10][H:11],-1.6405637432299998
[H:1][O:2]/[C:3](=[C:4](/[H:5])[C:6]=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:4]([H:5])#[C:6][C:7]([H:8])[H:9].[H:1][O:2][C:3][C:10]([H:11])([H:12])[H:13],3.06106743737
[H:1][O:2]/[C:3]([H:4])=[C:9](\[C:7](=[C:5][H:6])[H:8])[C:10]([H:11])([H:12])[H:13]>>[H:1][O:2][C@@:3]1([H:4])[C:5]([H:6])[C:7]([H:8])=[C:9]1[C:10]([H:11])([H:12])[H:13],-0.4724515148899999
[C:8]([H:9])([H:10])[H:11].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18]>>[H:1][O:2][C:3]([H:4])([H:5])[C@:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18],-3.95285011807
[C:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:1][O:2][C:3]([H:4])([H:5])[C:6]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]#[C:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-8.96611643
